US08431575B2
To a solution of 3-cyclohexyl-4-(4-cyclohexyloxy-phenyl)-6-(piperidin-4-yloxy)-pyridazine dihydrochloride (0.079 mmol, 0.04 g) and aqueous formaldehyde (37%, 0.39 mmol, 0.035 mL) in dry DCM (1 mL) was added macroporous resin-bound triacetoxyborohydride (loading 2.36 mmol/gram, 0.47 mmol, 0.20 g). The mixture was shaken for 2 hours. The reaction was placed directly onto a 4 g SiO2 cartridge and the column was eluted with 4-6% (2N NH3 in MeOH) in DCM to give 3-cyclohexyl-4-(4-cyclohexyloxy-phenyl)-6-(1-methyl-piperidin-4-yloxy)-pyridazine. The neutral amine was treated with 2N HCl in diethyl ether (0.5 mL) and DCM (0.5 mL). The volatiles were removed under reduced pressure and the salt was triturated with diethyl ether and filtered to provide the title compound (0.04 g). LCMS: m/z 451 [M+1]. 1H NMR (400 MHz, CD3OD) δ 7.63-7.79 (1H, m), 7.38-7.43 (2H, m), 7.10-7.14 (2H, m), 5.33-5.57 (1H, m), 4.40-4.51 (1H, m), 3.66-3.69 (1H, m), 3.11-3.54 (3H, m), 2.94 (3H, s), 2.37-2.62 (2H, m), 2.20-2.30 (1H, m), 1.20-2.17 (22H, m).

reactant | 3-cyclohexyl-4-(4-cyclohexyloxy-phenyl)-6-(piperidin-4-yloxy)-pyridazine dihydrochloride | 0.079 mmol, 0.04 g | Cl.Cl.C1(CCCCC1)C=1N=NC(=CC1C1=CC=C(C=C1)OC1CCCCC1)OC1CCNCC1
reactant | formaldehyde | 0.39 mmol, 0.035 mL | C=O | CH2O
reactant | triacetoxyborohydride | 0.47 mmol, 0.20 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O
solvent | DCM | 1 mL | C(Cl)Cl | CH2Cl2
product | 3-cyclohexyl-4-(4-cyclohexyloxy-phenyl)-6-(1-methyl-piperidin-4-yloxy)-pyridazine | C1(CCCCC1)C=1N=NC(=CC1C1=CC=C(C=C1)OC1CCCCC1)OC1CCN(CC1)C | C28H39N3O2
